US06613942B1
3-Chloro-4-hydroxybenzoic Acid {4-[2-(4-Benzylpiperazin-1-yl)ethoxy]-2-methoxybenzylidene}hydrazide
This compound was prepared analogously to the compound described in the previous example starting from resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (resin—[building block 1]) (2 g, ˜2 mmoles), 4-(2-bromoethoxy)-2-methoxybenzaldehyde ([building block 2]) (0.73 g, 1.5 equivs.), and 1-benzylpiperazine ([building block 3]) (3.3 g, 10 equivs.). After cleavage with 50% trifluoroacetic acid, the residue (1.4 g) was dissolved in 2-propanol (50 ml) and concentrated to 20 ml. The mixture was allowed to stand at 5° C. for 1 h and filtered. The mother liquor was concentrated in vacuo and the residue was purified by column chromatography on silica gel (20 g) eluting with a mixture of methanol and dichloromethane (1:9). This afforded 0.98 g of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-2-methoxybenzaldehyde | 0.73 g | BrCCOC1=CC(=C(C=O)C=C1)OC | C10H11BrO3
reactant | 1-benzylpiperazine | 3.3 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 3-Chloro-4-hydroxybenzoic Acid {4-[2-(4-Benzylpiperazin-1-yl)ethoxy]-2-methoxybenzylidene}hydrazide | C(C1=CC=CC=C1)N1CCN(CC1)CCOC1=CC(=C(C=NNC(C2=CC(=C(C=C2)O)Cl)=O)C=C1)OC | C28H31ClN4O4
